US04904672
Step F: Preparation of 7-(Hydroxyphenylmethyl)-3-methoxymethoxy-2-phenyl-6-azabenzo[b]thiophene
A solution of 1.0 g (3.7 mmol) of 3-methoxymethoxy-2-phenyl-6-azabenzo[b]thiophene in 5 mL of dry ether was added and the solution was kept at -60° C. for 3 hours. The reaction was quenched with 0.5 mL of benzaldehyde and allowed to warm to room temperature. The mixture was partitioned between ether and water and the aqueous layer was washed with ether. The combined extracts were dried and concentrated to an oil. Chromatography on silica gel (30% ethyl acetate-hexane) afforded 0.62 g (44%) of a colorless oil, NMR (200 MHz, CDCl3) δ3.4 (s, 3H), 5.0 (s, 2H), 5.95 (s, 1H, --OH), 7.2-7.8-(m, 12H), 8.52 (d, J=6 Hz, 1H), Mass Spec m/e 377 (M+).

reactant | 3-methoxymethoxy-2-phenyl-6-azabenzo[b]thiophene | 3.7 mmol, 1.0 g | COCOC=1C2=C(SC1C1=CC=CC=C1)C=NC=C2 | C15H13NO2S
reactant | ether | 5 mL | CCOCC | C4H10O
product | 7-(Hydroxyphenylmethyl)-3-methoxymethoxy-2-phenyl-6-azabenzo[b]thiophene | 0.62 g, 44% | OC(C1=NC=CC2=C1SC(=C2OCOC)C2=CC=CC=C2)C2=CC=CC=C2 | C22H19NO3S
